US07626042B2
(1) 4-Chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide
Using 4-chlorosalicylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 4-chlorosalicylic acid | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | 4-Chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 55.8% | ClC1=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C1)O | C15H8ClF6NO2
